US07342115B2
A mixture of 4-chloro-6-(2,6-diethyl-phenyl)-2-methyl-nicotinic acid ethyl ester (200 mg, 0.60 mmol) and sodium thiomethoxide (126 mg, 1.80 mmol) in DMF (5 mL) is heated at 70° C. overnight. After cooling, water (20 mL) is added and the resulting mixture is extracted with EtOAc. The combined extracts are washed with brine, dried over sodium sulfate and concentrated. The residue is chromatographed on silica gel to give 6-(2,6-diethyl-phenyl)-2-methyl-4-methylsulfanyl-nicotinic acid ethyl ester.

reactant | 4-chloro-6-(2,6-diethyl-phenyl)-2-methyl-nicotinic acid ethyl ester | 0.60 mmol, 200 mg | C(C)OC(C1=C(N=C(C=C1Cl)C1=C(C=CC=C1CC)CC)C)=O | C19H22ClNO2
reactant | sodium thiomethoxide | 1.80 mmol, 126 mg | C[S-].[Na+]
reactant | water | 20 mL | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 6-(2,6-diethyl-phenyl)-2-methyl-4-methylsulfanyl-nicotinic acid ethyl ester | C(C)OC(C1=C(N=C(C=C1SC)C1=C(C=CC=C1CC)CC)C)=O | C20H25NO2S
